US04663453
2-(5-Methylindolin-1-yl)benzonitrile
A slurry of 5-methylindoline (31 g, 0.23 mole), sodium hydride (11.3 g, 60% in oil) and dimethylsulfoxide (120 ml) was stirred at room temperature for 1 hour. A solution of o-fluorobenzonitrile (31 gm, 0.25 mole) in dimethylsulfoxide (25 ml) was added dropwise at a temperature below 20° C. Upon completion of the addition, the mixture was stirred for 2 hours at room temperture. The reaction mixture was partitioned between methylene chloride (700 ml) and ice-water (700 ml). The dichloromethane solutions were separated. The aqueous phase was extracted with dichloromethane (2 times, 600 ml). The combined dichloromethane solutions were washed with 2N hydrochloric acid (2 times, 500 ml), water (500 ml), brine (2 times, 400 ml), dried over anhydrous sodium sulfate, filtered, and concentrated. The residue was dissolved in ethanol (300 ml) and heptane (100 ml), and chilled in a freezer. The precipitate was collected. The mother liquor was concentrated and purified by flash chromatography on a silica gel column (400 g, 230-400 mesh) eluted with hexane:dichloromethane (3:1, 3 l); hexane:dichloromethane (1:1, 2 l) and dichloromethane (2 l). The fractions containing product were pooled and concentrated to yield 33 g (73% overall yield). The analytical sample was prepared by high-pressure liquid chromatography (Water Associates Prep 500, 10 g, 2 chamber, elution with hexane:dichloromethane, 9:1, 12 l) followed by crystallization from ethanol, mp 59°-60° C.

reactant | 5-methylindoline | 0.23 mole, 31 g | CC=1C=C2CCNC2=CC1 | C9H11N
reactant | sodium hydride | 11.3 g | [H-].[Na+]
reactant | o-fluorobenzonitrile | 0.25 mole, 31 gm | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 25 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 120 ml | CS(=O)C | C2H6OS
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | 2-(5-Methylindolin-1-yl)benzonitrile | CC=1C=C2CCN(C2=CC1)C1=C(C#N)C=CC=C1 | C16H14N2
